US04054719
Following the procedure of Example 1, 5 grams of 4-ethoxyphenacyl bromide are reacted with 5 grams of acetic acid to obtain 4-ethoxyphenacyl acetate, m.p. 81°-82° C.

reactant | 4-ethoxyphenacyl bromide | 5 grams | C(C)OC1=CC=C(C(CBr)=O)C=C1 | C10H11BrO2
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 4-ethoxyphenacyl acetate | C(C)(=O)OCC(=O)C1=CC=C(C=C1)OCC | C12H14O4
